US06797823B1
N-(2-Methoxy-4-{[6-methoxy-7-(3-morpholino-propoxy)-4-quinazolinyl]oxy}phenyl)-N′-propylurea
N-4-[(7-Hydroxy-6-methoxy-4-quinazolinyl)oxy]-2-methoxyphenyl}-N′-propylurea (100 mg), potassium carbonate (138 mg), and 1,3-dibromopropane (56 mg) were dissolved in N,N-dimethylformamide (5 ml), and the solution was stirred at room temperature for 3 hr. The solvent was removed by distillation under the reduced pressure. Water was added to the residue, and the mixture was extracted with chloroform/2-propanol (4/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give 53 mg (yield 41%) of N-(4-[7-(3-bromopropoxy)-6-methoxy-4-quinazolinyl]oxy-2-methoxy-phenyl}-N′-propylurea. N-(4-{[6-(3-Bromopropoxy)-7-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl}-N′-propylurea (50 mg), potassium carbonate (60 mg), and N-methylpiperazine (100 μl) were dissolved in N,N-dimethylformamide (2 ml), and the solution was stirred at room temperature for 16 hr. The solvent was removed by distillation under the reduced pressure. A saturated aqueous sodium hydrogencarbonate solution was added to the residue, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/methanol to give 22 mg (yield 42%) of the title compound.

reactant | N-(4-{[6-(3-Bromopropoxy)-7-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl}-N′-propylurea | 50 mg | BrCCCOC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NCCC)Cl | C22H24BrClN4O4
reactant | potassium carbonate | 60 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpiperazine | 100 μl | CN1CCNCC1 | C5H12N2
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-(2-Methoxy-4-{[6-methoxy-7-(3-morpholino-propoxy)-4-quinazolinyl]oxy}phenyl)-N′-propylurea | 22 mg, yield 42% | COC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)NC(=O)NCCC | C27H35N5O6
